US07465795B2
4-amino-8-(3-methylsulfonylphenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 3-(methylsulfonyl)phenylboronic acid (200 mg, 1.000 mmol) were reacted to afford the title compound (155 mg, 83% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.51 (br, 1H), 8.21 (m, 1H), 8.11-7.67 (m, 6H), 3.45 (apparent quartet, J=7.0 Hz, 2H), 3.12 (s, 3H), 1.67 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H). MS APCI, m/z=385 M+H) HPLC 1.75 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 3-(methylsulfonyl)phenylboronic acid | 1.000 mmol, 200 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
product | 4-amino-8-(3-methylsulfonylphenyl)-N-propyl-cinnoline-3-carboxamide | 155 mg, 83% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)NCCC | C19H20N4O3S
